US08426358B2
Synthesis of 3-(5-methyl-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to Example 1 by using 5-methyl-1,3,4-thiadiazole-2-thiol (264 mg, 2.00 mmol), NaH (60% dispersion in mineral oil, 88 mg, 2.20 mmol), and 3-chloropyrazine-2-carbonitrile (280 mg, 2.00 mmol) in DMF and benzene (6 ml, 1/1) by stirring at room temperature under nitrogen atmosphere for 6 hr.

reactant | 5-methyl-1,3,4-thiadiazole-2-thiol | 2.00 mmol, 264 mg | CC1=NN=C(S1)S | C3H4N2S2
reactant | NaH | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 2.00 mmol, 280 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-methyl-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | CC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C8H5N5S2
